US09079853B2
5-chloro-2-oxo-1-propylindolin-3-yl benzoate
Was prepared in a method analogous to 2-oxo-1-propylindolin-3-yl benzoate using 5-chloro-1-propylindoline-2,3-dione. 1H-NMR δ 8.11 (dd, 2H), 7.60 (dt, 1H), 7.47 (m, 3H), 7.35 (dd, 1H), 6.83 (d, 1H), 6.13 (s, 1H), 3.73 (m, 2H), 1.77 (m, 2H), 1.04 (t, 3H).

reactant | 2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CCC)=O | C18H17NO3
reactant | 5-chloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
product | 5-chloro-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CCC)=O | C18H16ClNO3
